### PR TITLE
feat: Match mathlib#16761

### PR DESCRIPTION
**Pull request by YaelDillies**
I cannot figure out why this fails, but I'm sure someone will :^)

See leanprover-community/mathlib#16761.

### CODE REVIEW

**Comment by semorrison** [comment]
Like the error message says, there is no `refl` tactic. It is called `rfl` now.

File: Mathlib/Algebra/Order/Monoid/Lemmas.lean [hunk 1]
```diff
@@ -1151,6 +1151,16 @@ theorem AntitoneOn.mul' [CovariantClass α α (· * ·) (· ≤ ·)]
 #align antitone_on.mul' AntitoneOn.mul'
 #align antitone_on.add AntitoneOn.add
 
+@[to_additive] lemma mul_le_mul_iff_of_ge [CovariantClass α α (· * ·) (· ≤ ·)]
+  [CovariantClass α α (swap (· * ·)) (· ≤ ·)] [CovariantClass α α (· * ·) (· < ·)]
+  [CovariantClass α α (swap (· * ·)) (· < ·)] {a₁ a₂ b₁ b₂ : α} (ha : a₁ ≤ a₂) (hb : b₁ ≤ b₂) :
+  a₂ * b₂ ≤ a₁ * b₁ ↔ a₁ = a₂ ∧ b₁ = b₂ := by
+  refine' ⟨fun h ↦ _, by rintro ⟨rfl, rfl⟩; refl⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Monoid/Lemmas.lean:1158]:
```suggestion
  refine' ⟨fun h ↦ _, by rintro ⟨rfl, rfl⟩; rfl⟩
```

**Comment by semorrison** [comment]
bors d+

Please merge once the mathlib3 PR is approved.
